US07592358B2
33.1c. 5-iodo-2-(2-pyrrolidin-1-ylethoxy)phenol
A mixture of 3.10 g (8.93 mmol) of 1-[2-(4-iodo-2-methoxyphenoxy)ethyl]pyrrolidine and 4.50 g (38.94 mmol) of pyridinium hydrochloride was heated to 200° C.-250° C. for 5 minutes, cooled to RT, and combined with DCM. The organic phase was washed with water and saturated aqueous NaCl solution, dried over sodium sulfate, and evaporated down in vacuo. The residue was stirred with acetonitrile, and the precipitate was filtered off and dried in vacuo. Yield: 0.75 g (25% of theoretical); C12H16INO2 (M=333.165); calc.: molpeak (M+H)+334; found: molpeak (M+H)+: 334; HPLC-MS: 5.02 minutes (method A).

reactant | 1-[2-(4-iodo-2-methoxyphenoxy)ethyl]pyrrolidine | 8.93 mmol, 3.10 g | IC1=CC(=C(OCCN2CCCC2)C=C1)OC | C13H18INO2
reactant | pyridinium hydrochloride | 38.94 mmol, 4.50 g | Cl.[NH+]1=CC=CC=C1
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 5-iodo-2-(2-pyrrolidin-1-ylethoxy)phenol | IC=1C=CC(=C(C1)O)OCCN1CCCC1 | C12H16INO2
